* source TIME_DOMAIN_ANALYSIS
R_R2         N02673 N02629  1k TC=0,0 
R_R4         N02521 N02511  100 TC=0,0 
R_R1         N02725 N02673  1k TC=0,0 
X_U1         N02629 N02639 bulb PARAMS: Vnom=2.5V Pnom=100W HCtau=4.082
D_D1         N02511 N02551 LO_541B-TYP 
R_R3         0 N02667  1k TC=0,0 
Q_Q1         N02551 N02639 N02667 Q2SD553 
V_V1         N02521 0 6Vdc
V_V2         N02725 0 0.5Vdc
